US20010027196A1
Following the method of Hull (J. Chem. Soc. 1957, 4845), a stirred suspension of 3.26 g (16.1 mmol) 2-amino-4-furan-2-yl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile in 3.7 ml (40.3 mmol) phosphorus oxychloride was heated at reflux for 90 minutes. The reaction mixture was then cooled to room temperature, diluted with dichloromethane, and poured cautiously onto 100 ml rapidly stirred ice-water such that the temperature remained around 10° C. The phases were separated and the aqueous phase further extracted with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Chromatography (ethyl acetate) afforded 0.16 g (4%) 2-amino-4-chloro-6-furan-2-yl-pyrimidine-5-carbonitrile as an orange crystalline solid. EI-MS m/e (%): 222 (M{37Cl}+, 34), 220 (M{35Cl}+, 100), 143 (30).

reactant | 2-amino-4-furan-2-yl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 16.1 mmol, 3.26 g | NC=1NC(C(=C(N1)C=1OC=CC1)C#N)=O | C9H6N4O2
reactant | phosphorus oxychloride | 40.3 mmol, 3.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-amino-4-chloro-6-furan-2-yl-pyrimidine-5-carbonitrile | 0.16 g, 4% | NC1=NC(=C(C(=N1)Cl)C#N)C=1OC=CC1 | C9H5ClN4O
